US04666993
Oxalyl chloride (130 g; 1.02 mol) was charged in a reactor, and a warm solution of acrylamide (71 g; 1.0 mol) in dichloroethane (250 ml) was dropwise added thereto (reaction temperature, 10° to 30° C.). After completion of the dropwise addition, the solvent and excess of the oxalyl chloride were removed by distillation under reduced pressure to obtain 2-vinyloxazoline-4,5-dione hydrochloride (161 g) as a yellow oil. Viscosity, 100,000 cp.

reactant | Oxalyl chloride | 1.02 mol, 130 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | acrylamide | 1.0 mol, 71 g | C(C=C)(=O)N | C3H5NO
solvent | dichloroethane | 250 ml | ClC(C)Cl | C2H4Cl2
product | 2-vinyloxazoline-4,5-dione hydrochloride | 161 g | Cl.C(=C)C=1OC(C(N1)=O)=O | InChI=1S/C5H3NO3.ClH/c1-2-3-6-4(7)5(8)9-3;/h2H,1H2;1H
